US05753664
9-Hydroxy-2,3-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one
A mixture of 2-amino-3-hydroxypyridine (11 g), ethyl 2-methylacetoacetate (14.4 g), polyphosphoric acid (20 ml), and acetic acid (40 ml) was heated at 100° C. with stirring for 4 hours. The reaction mixture was poured in ice-water, adjusted to pH 4 with aqueous sodium hydroxide solution and then to pH 7 with potassium carbonate. The resulting precipitate was extracted with chloroform and the extract was washed with water, dried, and concentrated to provide the title compound (3.63 g) as brown solid. 1H-NMR (DMSO-d6) δ: 2.25(3H,s), 2.49(3H,s), 6.97(1H,dd,J=7.4,6.8Hz), 7.05(1H,dd,J=7.4,1.6Hz), 8.47(1H,dd,J=6.8,1.6Hz).

reactant | 2-amino-3-hydroxypyridine | 11 g | NC1=NC=CC=C1O | C5H6N2O
reactant | ethyl 2-methylacetoacetate | 14.4 g | CC(C(=O)OCC)C(=O)C | C7H12O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 9-Hydroxy-2,3-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one | 3.63 g | OC1=CC=CN2C1=NC(=C(C2=O)C)C | C10H10N2O2
